US07211634B1
A copolyester of terephthalic acid was produced by charging 35.0 grams of terephthalic acid (TPA), 50.0 grams of the PCI-oligomer produced in Example 1, 18.0 grams of 1,4-cyclo-hexanedimethanol, and approximately 50–70 parts per million (ppm) titanium catalyst (as acetyltriisopropyltitanate) based on final polymer weight to a 0.5 liter reaction vessel at room temperature. Total diol-to-diacid feed mole ratio in this case was 1.091:1. The reactor vessel was equipped with a mechanical agitator, a side arm for condensate removal, a nitrogen inlet port, and a heat source (generally an oil or metal bath). The reaction vessel was then immersed in the heat source and brought rapidly up to the starting temperature indicated in Table 1. Esterification and polymerization were carried out using the reaction profile shown in Table 1. For Example 2, the resulting polymer had an IV of 0.778 dl/g, an acid content of 38 meq/kg, and a titanium content of 48 ppm.

reactant | terephthalic acid | 35.0 grams | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
catalyst | titanium | [Ti] | Ti
product | 1,4-cyclo-hexanedimethanol | 18.0 grams | C1(CCC(CC1)CO)CO | C8H16O2
